US06495568B1
Quinolin-3-ylboronic Acid
A 2.5M solution of n-butyllithium in hexane (4.4 ml, 11 mmol) was slowly added to a stirred solution of 3-bromoquinoline (2.08 g, 10 mmol) in anhydrous ether (20 ml), under nitrogen, at −75° C. After a further 20 minutes at −75° C., trimethylborate (1.46 ml, 13 mmol) was added, whereupon the red colour changed to yellow. The reaction mixture was allowed to warm to room temperature and quenched with water, followed by 1M aqueous sodium hydroxide solution (10 ml). The resulting mixture was stirred for 30 minutes and then glacial acetic acid added until a pH ˜5-6 was attained, which generated a gummy precipitate. Diisopropyl ether was added to this mixture, stirring continued for 1 hour and then the clear aqueous and organic phases were decanted from the solid and discarded. The solid residue was dissolved in ethyl acetate and the solution washed with water, dried (MgSO4) and evaporated under reduced pressure to give the title compound as a pale yellow solid (580 mg, 34%). Found: C, 62.74; H, 4.11; N, 7.92. C9H8BNO2 requires C, 62.49; H, 4.66; N, 8.10%. δ(DMSOd6): 7.59 (t,1H), 7.76 (t,1H), 7.98 (m,2H), 8.42 (brs,2H,exchangeable), 8.70 (s,1H), 9.18 (s,1H).

reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 11 mmol, 4.4 ml | CCCCCC | C6H14
reactant | 3-bromoquinoline | 10 mmol, 2.08 g | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | trimethylborate | 13 mmol, 1.46 ml | COB(OC)OC | C3H9BO3
solvent | ether | 20 ml | CCOCC | C4H10O
product | Quinolin-3-ylboronic Acid | 580 mg, 34% | N1=CC(=CC2=CC=CC=C12)B(O)O | C9H8BNO2
